US06288120B1
5-(3-Oxo-propyl)-thiophene-2-carboxylic acid tert-butyl ester.
To a solution of 5-bromo-thiophene-2-carboxylic acid tert-butyl ester (0.50 g, 1.89 mmol) in 5 mL DMF was added allyl alcohol (0.51 mL, 7.57 mmol) followed by NaHCO3 (0.397 g, 4.72 mmol), tetrabutylammonium chloride (0.525g, 1.89 mmol), and palladium acetate (0.021 g, 0.094 mmol). The reaction was placed in an oil bath heated to 65° C. and was heated to 90° C. for 2 h. The mixture was diluted with EtOAc and 25 mL water and the solids were removed by filtration through Celite. The layers were separated, and the organic-solution was washed with water (4×), dried over MgSO4 and concentrated to a dark yellow oil which was purified via medium pressure chromatography (7:1 hexanes:EtOAc) to afford the title compound (0.190 g). 1H NMR (400 MHz, CDCl3) δ 9.80 (s, 1H), 7.51 (d, 1H), 6.78 (d, 1H), 3.14 (t, 2H), 2.86 (t, 2H), 1.54 (s, 9H).

reactant | 5-bromo-thiophene-2-carboxylic acid tert-butyl ester | 1.89 mmol, 0.50 g | C(C)(C)(C)OC(=O)C=1SC(=CC1)Br | C9H11BrO2S
reactant | allyl alcohol | 7.57 mmol, 0.51 mL | C(C=C)O | C3H6O
reactant | NaHCO3 | 4.72 mmol, 0.397 g | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium chloride | 1.89 mmol, 0.525g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 25 mL | O | H2O
catalyst | palladium acetate | 0.094 mmol, 0.021 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(3-Oxo-propyl)-thiophene-2-carboxylic acid tert-butyl ester | 0.190 g | C(C)(C)(C)OC(=O)C=1SC(=CC1)CCC=O | C12H16O3S
